US08183246B2
3-{[5-(4-Methoxyphenyl)-6-phenylfuro[2,3-d]pyrimidin-4-yl]oxy}-2,2-dimethylpropan-1-ol
Put 1.546 g (14.85 mmol) 2,2-dimethylpropane-1,3-diol in 30 ml THF. Add 833 mg (7.42 mmol) potassium tert.-butylate and stir for a further 15 min at RT. Then cool to 0° C. and add a solution of 1.00 g (2.97 mmol) 4-chloro-5-(4-methoxyphenyl)-6-phenylfuro[2,3-d]pyrimidine in 15 ml THF dropwise over a time of 30 min. Leave to return to RT and stir for a further 30 min at RT. Then add dichloromethane and water, acidify with 10% citric acid solution and separate the phases. Extract the aqueous phase once with dichloromethane. Combine the organic phases and wash once with satd. sodium chloride solution, dry over magnesium sulphate and concentrate by evaporation. 1.20 g (99.9% of theor.) of the target compound is obtained.

reactant | 2,2-dimethylpropane-1,3-diol | 14.85 mmol, 1.546 g | CC(CO)(CO)C | C5H12O2
reactant | 4-chloro-5-(4-methoxyphenyl)-6-phenylfuro[2,3-d]pyrimidine | 2.97 mmol, 1.00 g | ClC=1C2=C(N=CN1)OC(=C2C2=CC=C(C=C2)OC)C2=CC=CC=C2 | C19H13ClN2O2
reactant | dichloromethane | ClCCl | CH2Cl2
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 3-{[5-(4-Methoxyphenyl)-6-phenylfuro[2,3-d]pyrimidin-4-yl]oxy}-2,2-dimethylpropan-1-ol | COC1=CC=C(C=C1)C1=C(OC=2N=CN=C(C21)OCC(CO)(C)C)C2=CC=CC=C2 | C24H24N2O4
